US05360802
Step 1: N-tert-Butyloxycarbonyl-3-(methylmercapto)aniline
To a solution of 3-(methylmercapto)aniline (5 ml, 40.5 mmol) in anhydrous dichloromethane (100 ml) was added di-tert-butyl dicarbonate (8.86 g, 40.5 mmol) and the resulting dark brown mixture stirred at room temperature for 64 h under a nitrogen atmosphere. Diethyl ether (200 ml) was then added and the organic phase was washed with 1N hydrochloric acid (1×25 ml), water (1×25 ml), brine (1×40 ml), dried (MgSO4) and concentrated. Flash chromatography of the residue on silica gel (hexane:diethyl ether, 90:10) gave the title compound (8.45 g, 87%) as a white solid. 1H NMR (250 MHz, CDCl3) δ 1.52 (9H, s), 2.47 (3H, s), 6.45 (1H, brs), 6.92 (1H, ddd, J=7.8, 1.9 and 1.2 Hz), 7.06 (1H, ddd, J=7.8, 1.9 and 1.2 Hz), 7.18 (1H, t, J=7.8 Hz), 7.36 (1H, t, J=1.9 Hz). MS (CI, NH3)239 (M+).

reactant | 3-(methylmercapto)aniline | 40.5 mmol, 5 ml | CSC=1C=C(N)C=CC1 | C7H9NS
reactant | di-tert-butyl dicarbonate | 40.5 mmol, 8.86 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-tert-Butyloxycarbonyl-3-(methylmercapto)aniline | 8.45 g, 87% | C(C)(C)(C)OC(=O)NC1=CC(=CC=C1)SC | C12H17NO2S
